### PR TITLE
[Merged by Bors] - chore: make the model with corners implicit in differential geometry statements

### PR DESCRIPTION
**Pull request by sgouezel**
Currently, the model with corners `I` is explicit in many (most?) differential geometry statements. However, when rewriting, or applying theorems, it can be inferred from the context 95% of the time. Therefore, we make it implicit in most statements: the rule of thumb is that in `variable` lines we should have `{I : ModelWithCorners 𝕜 E H}`, and use `variable (I) in` for definitions. 

This looks like a clear improvement to me, making proofs more readable and avoiding clutter. For the few cases where we need to provide it explicitly, named arguments work well.

No mathematical change at all, just arguments implicitness.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/MFDeriv/Atlas.lean [hunk 1]
```diff
@@ -32,15 +32,17 @@ open Bundle Set Topology
...
-  (I' : ModelWithCorners 𝕜 E' H') {M' : Type*} [TopologicalSpace M'] [ChartedSpace H' M']
+  {I' : ModelWithCorners 𝕜 E' H'} {M' : Type*} [TopologicalSpace M'] [ChartedSpace H' M']
   {E'' : Type*} [NormedAddCommGroup E''] [NormedSpace 𝕜 E''] {H'' : Type*} [TopologicalSpace H'']
-  (I'' : ModelWithCorners 𝕜 E'' H'') {M'' : Type*} [TopologicalSpace M''] [ChartedSpace H'' M'']
+  {I'' : ModelWithCorners 𝕜 E'' H''} {M'' : Type*} [TopologicalSpace M''] [ChartedSpace H'' M'']
 
 section ModelWithCorners
 namespace ModelWithCorners
 
+variable (I)
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Geometry/Manifold/MFDeriv/Atlas.lean:44]: Or is there something particular about *this* section?

File: Mathlib/Geometry/Manifold/MFDeriv/Defs.lean [hunk 2]
```diff
@@ -127,6 +127,7 @@ differentiable functions between manifolds. -/
 def DifferentiableWithinAtProp (f : H → H') (s : Set H) (x : H) : Prop :=
   DifferentiableWithinAt 𝕜 (I' ∘ f ∘ I.symm) (I.symm ⁻¹' s ∩ Set.range I) (I x)
 
+variable {I I'} in
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Defs.lean:130]: The current variable management in this file technically *works* - but I would find it clearer to flip the default: make `I` and `I'` implicit in the variable block, and explicit in each definition. What do you think?

File: Mathlib/Geometry/Manifold/MFDeriv/UniqueDifferential.lean [hunk 3]
```diff
@@ -44,7 +44,7 @@ theorem UniqueMDiffWithinAt.image_denseRange (hs : UniqueMDiffWithinAt I s x)
     {f : M → M'} {f' : E →L[𝕜] E'} (hf : HasMFDerivWithinAt I I' f s x f')
     (hd : DenseRange f') : UniqueMDiffWithinAt I' (f '' s) (f x) := by
   /- Rewrite in coordinates, apply `HasFDerivWithinAt.uniqueDiffWithinAt`. -/
-  have := hs.inter' <| hf.1 (extChartAt_source_mem_nhds I' (f x))
+  have := hs.inter' <| hf.1 (extChartAt_source_mem_nhds (I:= I') (f x))
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/UniqueDifferential.lean:47]:
```suggestion
  have := hs.inter' <| hf.1 (extChartAt_source_mem_nhds (I := I') (f x))

**Review by grunweg — APPROVED** [review]
This seems like a worthwhile trade-off. Thank you for doing this. The changes you're making look good to me! There are a few remaining `variable (I)` in the `Geometry/Manifold` directory: would you like to change/audit those as well?

(These go beyond this diff, for instance, there is one in `BumpFunction`, another in `ContMDiffMFDeriv`, and these are not all.)

File: Mathlib/Geometry/Manifold/MFDeriv/Atlas.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/MFDeriv/Atlas.lean:44]: Yes, it's because this specific section is about `I` as a map (not as a parameter in other statements): it says that `I` or its inverse are differentiable, so `I` has better be explicit so that we know what we talk about. Let me add a comment about this.

File: Mathlib/Geometry/Manifold/MFDeriv/Defs.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/MFDeriv/Defs.lean:130]: Most things in this file are definitions, so `I` and `I'` would need to be made explicit for most statements. But still, I agree with you that it's clearer to follow an overall design, so I've made the change.

**Comment by sgouezel** [comment]
Thanks for the pointers to remaining `(I)`. I've added two changes, and decided that the other ones were natural as they are. It's completely possible that I've still overlooked some of them, of course !

**Comment by grunweg** [comment]
Sorry for the delay. I keep meaning to return to this PR, and check if there are further places that should be modified in the same way. Finding time for this will take a few days, though. In the mean-time, I see no reason why this PR should not land already: I agree with all the changes in it; I might only suggest a few more. Thanks again for the PR!
maintainer merge

**Comment by PatrickMassot** [comment]
bors merge
